US07553969B1
To a solution of Tyr(3-F)-OH (0.80 g, 4.02 mmol) and di-tert-butyl dicarbonate (0.92 g, 4.22 mmol) in dioxane/water (7 ml/7 ml), TEA (1.12 ml, 8.04 mmol) was added under cooling with ice and stirred for 2.5 hours. The reaction mixture was concentrated to approximately a half volume, mixed with a saturated aqueous NaHCO3 solution and washed with ether. The aqueous layer was rendered acidic by the addition of 2N hydrochloric acid under cooling with ice, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure, giving crude Boc-Tyr(3-F)-OH (1.18 g).

reactant | Tyr(3-F)-OH | 4.02 mmol, 0.80 g | N[C@@H](CC1=CC(=C(C=C1)O)F)C(=O)O | C9H10FNO3
reactant | di-tert-butyl dicarbonate | 4.22 mmol, 0.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 7 ml | O1CCOCC1.O
product | Boc-Tyr(3-F)-OH | 1.18 g | N([C@@H](CC1=CC(=C(C=C1)O)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO5
